US08835428B2
(R)-Methyl 3-methyl-2-(3-(4-(3-p-tolylureido)phenyl)isoxazole-5-carbothioamido)butanoate
The title compound was prepared according to the procedure as set, forth in example 151, except that 1-isocyanato-4-methylbenzene was used in place of 1-fluoro-3-isocyanatobenzene and (R)-methyl 2-(3-(4-aminophenyl)isoxazole-5-carbothioamido)-3-methylbutanoate was used in place of methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate to yield 65% of the title compound. MS (ESI): m/z 467(M+H); 1HNMR (DMSO-d6, 300 MHz): δ 10.924 (d, 1H), 8.902 (s, 1H), 8.630 (s, 1H), 7.865 (d, 2H), 7.607(d, 3H), 7.351(d, 2H), 7.094(d, 2H), 4.810 (s, 1H), 3.665(s, 3H), 2.489 (m, 1H), 2.367(s, 3H), 1.033(m, 6H).

reactant | 1-isocyanato-4-methylbenzene | N(=C=O)C1=CC=C(C=C1)C | C8H7NO
reactant | (R)-methyl 2-(3-(4-aminophenyl)isoxazole-5-carbothioamido)-3-methylbutanoate | NC1=CC=C(C=C1)C1=NOC(=C1)C(N[C@@H](C(=O)OC)C(C)C)=S | C16H19N3O3S
product | (R)-Methyl 3-methyl-2-(3-(4-(3-p-tolylureido)phenyl)isoxazole-5-carbothioamido)butanoate | 65% | CC([C@H](C(=O)OC)NC(=S)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C)C | C24H26N4O4S
